US05073550
16.4 g of 2-(tritylamino)-4-thiazoleglyoxylic acid ethyl ester (Z)-O-(2-azidoethyl) oxime were hydrogenated for 3.5 hours under normal pressure in 300 ml of methanol in the presence of 2.5 g of palladium/carbon (5%). The catalyst was filtered off and the solvent was removed in a vacuum. The residue was crystallized from carbon tetrachloride/petroleum ether (low-boiling). There was obtained 2-(tritylamino)-4-thiazoleglyoxylic acid ethyl ester (Z)-O-(2-aminoethyl) oxime as white crystals having a melting point of 126°-144° C.

reactant | 2-(tritylamino)-4-thiazoleglyoxylic acid ethyl ester (Z)-O-(2-azidoethyl) oxime | 16.4 g | N(=[N+]=[N-])CCO\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H26N6O3S
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium/carbon | 2.5 g | [Pd] | Pd
product | 2-(tritylamino)-4-thiazoleglyoxylic acid ethyl ester (Z)-O-(2-aminoethyl) oxime | NCCO\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28N4O3S
